US08183231B2
((R)-3-Amino-2-hydroxy-propyl)-cyclohexylmethyl-phosphinic acid benzyl ester hydrochloride (2.10 mmol) was dissolved in DMF (30 mL) under nitrogen and stirred at 0° C. To this was added sequentially hydroxybenzotriazole (0.91 g, 6.72 mmol), N-Cbz-L-valine (0.63 g, 2.52 mmol), triethylamine (0.58 mL, 4.2 mmol) followed by 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.48 g, 2.52 mmol). The stirred reaction mixture was allowed to warm to room temperature and continued to stir overnight. The reaction was diluted with ethyl acetate (300 mL) and was washed with brine (100 mL). The brine layer was back extracted with ethyl acetate (2×100 mL) and the organic fractions were combined and were washed with 10% citric acid (2×100 mL), saturated sodium bicarbonate solution (2×100 mL) and brine (100 mL). The organic layer was dried over sodium sulfate, filtered and concentrated in vacuo to give the crude product which was purified by flash chromatography (as in Method A) to give (0.72 g, 1.29 mmol) of [(R)-3-((S)-2-benzyloxycarbonylamino-3-methyl-butyrylamino)-2-hydroxy-propyl]-cyclohexylmethyl-phosphinic acid benzyl ester as a white foam. NMR and MS spectra were substantially similar to the product obtained via Method A set forth above.

reactant | ((R)-3-Amino-2-hydroxy-propyl)-cyclohexylmethyl-phosphinic acid benzyl ester hydrochloride | 2.10 mmol | Cl.C(C1=CC=CC=C1)OP(=O)(CC1CCCCC1)C[C@@H](CN)O
reactant | hydroxybenzotriazole | 6.72 mmol, 0.91 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | N-Cbz-L-valine | 2.52 mmol, 0.63 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](C(C)C)C(=O)O | C13H17NO4
reactant | triethylamine | 4.2 mmol, 0.58 mL | C(C)N(CC)CC | C6H15N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 2.52 mmol, 0.48 g | Cl.CN(CCCN=C=NCC)C
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | [(R)-3-((S)-2-benzyloxycarbonylamino-3-methyl-butyrylamino)-2-hydroxy-propyl]-cyclohexylmethyl-phosphinic acid benzyl ester | 1.29 mmol, 0.72 g | C(C1=CC=CC=C1)OP(=O)(CC1CCCCC1)C[C@@H](CNC([C@H](C(C)C)NC(=O)OCC1=CC=CC=C1)=O)O | C30H43N2O6P
